US05665718
192.4 g (714.6 mmol) of (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid were suspended in 900 ml of N,N-dimethylformamide, treated at room temperature with 116 g (715 mmol) of 1,1'-carbonyldiimidazole and stirred at 50° for 30 minutes. 173 ml of 25% ammonia were added dropwise at 25°-30° within 30 minutes. After stirring for 30 minutes the reaction mixture was concentrated and the residue was dissolved in 500 ml of alcohol. After adding 250 ml of ether the mixture was cooled to 0° and the crystallizate was filtered off under suction and dried. There were obtained 133.6 g (69%) of (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide of m.p. 228°-230°.

reactant | (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 714.6 mmol, 192.4 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)O)CC2 | C14H11N3O3
reactant | 1,1'-carbonyldiimidazole | 715 mmol, 116 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 173 ml | N | H3N
solvent | N,N-dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
product | (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide | 133.6 g, 69% | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)N)CC2 | C14H12N4O2
